US03936468
One gram of chromium trioxide was added with stirring to 40 ml of pyridine cooled to 0°C. The mixture was stirred at room temperature for 1 hour, and then again cooled to 0°C. Into the said mixture was added 1.1 g of 1-(p-fluorophenyl)-4-[4-hydroxy-4-(p-methylphenyl)-piperidino]-1-butanol, and the mixture was stirred for 1 hour under cooling with ice. The reaction mixture was poured into 300 ml of cold water to separate an oily substance. The oily substance is extracted with ethyl acetate, and the ethyl acetate layer was washed 4 times with each 60 ml of water, dried over anhydrous sodium sulfate, and concentrated to dryness under reduced pressure. The residue was recrystallized from aqueous acetone to obtain γ-(4-hydroxy-4-p-methylphenylpiperidino)-p-fluorobutyrophenone, melting at 119° - 120°C.

reactant | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
reactant | 1-(p-fluorophenyl)-4-[4-hydroxy-4-(p-methylphenyl)-piperidino]-1-butanol | 1.1 g | FC1=CC=C(C=C1)C(CCCN1CCC(CC1)(C1=CC=C(C=C1)C)O)O | C22H28FNO2
catalyst | chromium trioxide | One gram | [O-2].[O-2].[O-2].[Cr+6]
solvent | water | 300 ml | O | H2O
product | γ-(4-hydroxy-4-p-methylphenylpiperidino)-p-fluorobutyrophenone | OC1(CCN(CC1)CCCC(=O)C1=CC=C(C=C1)F)C1=CC=C(C=C1)C | C22H26FNO2
